US06506754B1
Preparation of 6-(Aminomethyl)-1-(2-tetrahydropyranyl)indazole (8)
A solution of LiAlH4 (9 mL, 9 mmol, 1.0 M) in THF was added dropwise to a yellow solution of 6-(azidomethyl)-1-(2-tetrahydropyranyl)indazole (2.4 g, 9 mmol) (8) in THF (30 mL) at 0° C. After stirring at 0° C. for 1 hour, NaOH (1.0 m, 1.5 mL) was added. The reaction mixture was allowed to warm to room temperature. Ethyl acetate (100 mL) was added, and the suspension was filtered through (Celite). The filter cake was washed with an addition portion of ethyl acetate (40 mL). Combined organic layers were evaporated under vacuum to five essentially pure amine (2.1 g, 97%). MS (electrospray) 232.5 (M+1); 1H NMR (CDCl3) δ 1.67 (m, 3H), 2.01 (m, 2H), 2.48 (m, 1H), 3.85 (m, 1H), 3.94 (m, 1H), 5.75 (d, 1H, J=9.4 Hz), 7.14 (d, 1H, J=8.4 Hz), 7.62 (s, 1H), 7.62 (d, 1H, J=8.4 Hz), 7.93 (s, 1H)

reactant | LiAlH4 | 9 mmol, 1.0 M, 9 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 6-(azidomethyl)-1-(2-tetrahydropyranyl)indazole | 9 mmol, 2.4 g | N(=[N+]=[N-])CC1=CC=C2C=NN(C2=C1)C1OCCCC1 | C13H15N5O
reactant | NaOH | 1.5 mL | [OH-].[Na+]
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-(Aminomethyl)-1-(2-tetrahydropyranyl)indazole | NCC1=CC=C2C=NN(C2=C1)C1OCCCC1 | C13H17N3O
